RIPPLE CARRY ADDER

.option filetype=ascii

.INCLUDE ST65LIKE_cell_library_v2020_1.net
.INCLUDE 16nm_HP.pm
.PARAM Lmin=51.71336n
.PARAM Wmin=36.05883n
.PARAM XXX=1

.subckt RCA_SUB 0 Vdd sum0 sum1 sum2 sum3 cout3 cout-1 ina0 ina1 ina2 ina3 inb0 inb1 inb2 inb3  XX=1
	xfa0	0 Vdd sum0 cout0 cout-1  ina0 inb0 FA_SUB XX=XXX
	xfa1	0 Vdd sum1 cout1 cout0  ina1 inb1 FA_SUB XX=XXX
	xfa2	0 Vdd sum2 cout2 cout1  ina2 inb2 FA_SUB XX=XXX
	xfa3	0 Vdd sum3 cout3 cout2  ina3 inb3 FA_SUB XX=XXX
.ends

xrca 0 Vcc sum0 sum1 sum2 sum3 cout3 Xcout-1 ina0 ina1 ina2 ina3 inb0 inb1 inb2 inb3 RCA_SUB XX=XXX

V_dd Vcc 0 1
.TRAN 0.1p 820p
.end