*RIPPLE CARRY ADDER
.option filetype=ascii
.INCLUDE ST65LIKE_cell_library_v2020_1.net
.INCLUDE 16nm_HP.pm
.INCLUDE param.net
.subckt RCA_SUB 0 Vdd sum0 sum1 sum2 sum3 sum4  cout4 cin0  ain0  ain1  ain2  ain3  ain4  bin0  bin1  bin2  bin3  bin4  XX=1
xfa0 0 Vdd sum0 cout0 cin0 ain0 bin0 FA_SUB XX=XXX 
xfa1 0 Vdd sum1 cout1 cout0  ain1  bin1 FA_SUB XX=XXX 
xfa2 0 Vdd sum2 cout2 cout1  ain2  bin2 FA_SUB XX=XXX 
xfa3 0 Vdd sum3 cout3 cout2  ain3  bin3 FA_SUB XX=XXX 
xfa4 0 Vdd sum4 cout4 cout3  ain4  bin4 FA_SUB XX=XXX 
.ends 
xrca 0 Vcc S0 S1 S2 S3 S4  Cout4 Cin  A0  A1  A2  A3  A4  B0  B1  B2  B3  B4 RCA_SUB XX=XXX
.TRAN 0.1p 820p
VinA4 A4 0 0
VinA3 A3 0 1
VinA2 A2 0 0
VinA1 A1 0 0
VinA0 A0 0 0
VinB4 B4 0 1
VinB3 B3 0 1
VinB2 B2 0 0
VinB1 B1 0 0
VinB0 B0 0 0
V_dd Vcc 0 1 
.end