* and delay netlist
.INCLUDE 16nm_HP.pm
.INCLUDE ST65LIKE_cell_library_v2020_1.net
.TRAN 0.1p 800p
.PARAM Lmin = 16n
.PARAM Wmin = 16n

xandD 0 Vdd out a b AND2_SUB XX=1

VA a 0 PWL (0 0 600p 0 601p 1 700p 1 701p 0 1800p 0)
VB b 0 PWL (0 0 600p 0 601p 1 1200p 1 1201p 0 1800p 0)
V_DD Vdd 0 1

.control
run
meas tran delayANDoneA trig v(a) val = 0.5 rise = 1 targ v(out) val = 0.5 rise = 1 
meas tran delayANDzeroA trig v(a) val = 0.5 fall = 1 targ v(out) val = 0.5 fall = 1 
meas tran delayANDzoneB trig v(a) val = 0.5 rise = 1 targ v(out) val = 0.5 rise = 1 
meas tran delayANDzeroB trig v(a) val = 0.5 fall = 1 targ v(out) val = 0.5 fall = 1 

.endc
.end
