*not 
*download model from ptm.asu.edu 
.INCLUDE 16nm_HP.pm 

Mn1 nodez nodeIN 0 0 nmos W=16nm L=16nm 
Mp1 nodez nodeIN node1 node1 pmos W=32nm L=16nm 

Cl nodez 0 0.15fF 

Vdd node1 0 1 
Vin nodeIN 0 pwl(0 0 100p 0 110p 1 200p 1 210p 0) 

.tran 0.1p 250p 

.end
