* Param-example
.param amplitude= 1V
.tran 0.1p 820p
*
.subckt myfilter in out rval=100k cval=100nF
Ra in p1 {2*rval}
Rb p1 out {2*rval}
C1 p1 0 {2*cval}
Ca in p2 {cval}
Cb p2 out {cval}
R1 p2 0 {rval}
.ends myfilter
*
X1 input output myfilter rval=1k cval=1n
V1 input 0 AC {amplitude}

.end
