SIMPLE FULL ADDER

.option filetype=ascii
***LIBRERIE
.INCLUDE ST65LIKE_cell_library_v2020_1.net
.INCLUDE 16nm_HP.pm

***VARIABILI GLOBALI
.PARAM vthVARn=0.3423
.PARAM vthVARp=-0.23122
.PARAM ndepVARn=3.96e+018
.PARAM ndepVARp=1.68e+018
.PARAM toxpVAR=5.21e-010
.PARAM Lmin=51.71336n
.PARAM Wmin=36.05883n
.PARAM XXX=1
.PARAM tr=50p
.TRAN 0.1p 820p
***RICHIAMO FULL ADDER
XFA 0 vdd S Cout v1 v2 v3 FA_SUB XX=XXX

***mi aspetto S=1 e Cout=0
Vin1 v1 0 PWL(0 0 5p 0 6p 1 820p 1)
Vin2 v2 0 PWL(0 0 820p 0)
Vin3 v3 0 PWL(0 0 820p 0)

V_D vdd 0 1
